US05234946
54 mg of 4-fluoro-3-hydroxybenzaldehyde was dissolved in 2 ml of 2-propanol, and 73 mg of benzyl chloride, 80 mg of potassium carbonate and 5 mg of sodium iodide were added to the solution. The mixture was heated under reflux for 7 hours with stirring. The reaction mixture was diluted with ethyl ether, and the inorganic salts were removed by filtration. The filtrate was evaporated under reduced pressure, and purified by silica gel column chromatography (Wakogel C-200, 5 g; eluting solvent: hexane/ethyl acetate=20/1), and then recrystallized from chloroform/hexane to give 77 mg of 3-benzyloxy-4-fluorobenzaldehyde as colorless needles having a melting point of 68° to 69° C.

reactant | 4-fluoro-3-hydroxybenzaldehyde | 54 mg | FC1=C(C=C(C=O)C=C1)O | C7H5FO2
reactant | benzyl chloride | 73 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 80 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 2-propanol | 2 ml | CC(C)O | C3H8O
solvent | ethyl ether | C(C)OCC | C4H10O
catalyst | sodium iodide | 5 mg | [I-].[Na+]
product | 3-benzyloxy-4-fluorobenzaldehyde | 77 mg | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1F | C14H11FO2
